US07598264B2
A mixture of tert-butyl-[6-(3-chloro-4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]carbamate (0.49 g, 1.07 mol) and sodium hydride (54 mg, 1.34 mmol; 60% dispersion in oil) in anhydrous DMF (6 mL) was stirred at 0° C. for 30 minutes. Methanesulfonyl chloride (0.18 g, 1.61 mmol) was added, and the mixture was allowed to warm up slowly to room temperature. The reaction mixture was quenched with aqueous acid and diluted with dichloromethane. The organic extract was washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatograph on silica gel eluting with a mixture of 1% methanol in dichloromethane. Collection and concentration of appropriate fractions provided the intermediate tert-butyl-[6-(3-chloro-4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl](methylsulfonyl)carbamate (ES MS M+1=544). A solution of the above intermediate sulfonylcarbamate (281 mg, 0.52 mmol) and trifluoroacetic acid (5 mL) in anhydrous dichloromethane (5 mL) was stirred at room temperature for 10 minutes. The product mixture was concentrated under vacuum. The residue was partitioned between dichloromethane and aqueous acid. The organic extract was washed dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum to provide the title compound. ES MS M+1=444

reactant | tert-butyl-[6-(3-chloro-4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]carbamate | 1.07 mol, 0.49 g | C(C)(C)(C)OC(NC=1N(C(C(=C2C(N(CCC12)CC1=CC(=C(C=C1)F)Cl)=O)OC)=O)C)=O | C22H25ClFN3O5
reactant | sodium hydride | 1.34 mmol, 54 mg | [H-].[Na+]
reactant | Methanesulfonyl chloride | 1.61 mmol, 0.18 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | tert-butyl-[6-(3-chloro-4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl](methylsulfonyl)carbamate | C(C)(C)(C)OC(N(S(=O)(=O)C)C=1N(C(C(=C2C(N(CCC12)CC1=CC(=C(C=C1)F)Cl)=O)OC)=O)C)=O | C23H27ClFN3O7S
